US05155236
Methyl 2-trichloroacetamidomethylene-3-oxobutanoate (starting material for Example 15)
Methyl 2-aminomethylene-3-oxobutanoate (1.4 g) in methylene chloride (20 ml) was treated with triethylamine (2.0 ml) and trichloroacetyl chloride (2.0 ml) while stirring at 20°-25° C. The mixture was stirred for 4 hours at 20° C. to give a solution of the title compound, which was used immediately to prepare the dihydropyran of Example 15 without isolation.

reactant | Methyl 2-aminomethylene-3-oxobutanoate | 1.4 g | NC=C(C(=O)OC)C(C)=O | C6H9NO3
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 2.0 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-trichloroacetamidomethylene-3-oxobutanoate | ClC(C(=O)NC=C(C(=O)OC)C(C)=O)(Cl)Cl | C8H8Cl3NO4
